US05969137
2,6-Dimethyl-4-isopropylbenzaldehyde
A solution of NaNO2 (1.75 g, 25 mmol) in water (4 mL) was added to a stirred solution of 2,6-dimethyl-4-isopropylaniline hydrochloride (Schubert, W. M. et al. J. Amer. Chem. Soc. 1954, 76:1) (5 g, 25 mmol) in concentrated HCl (4.5 mL) at 0° C. The mixture was allowed to stir at 0° C. for 1.5 hours. Potassium acetate (6 g) was then added. At the same time, a solution of paraformaldehyde (1.15 g), hydroxylamine hydrochloride (2.63 g, 37.84 mmol) and potassium acetate (5.1 g) in water (17 mL) was heated under reflux for 15 min. To this solution, cooled to 10-15° C., was added potassium acetate (16.5 g) in water (18 mL), copper sulfate (0.625 g) and sodium sulfite (0.1 g). The neutral diazonium solution was then added immediately to the paraformaldehyde mixture and the resulting solution was allowed to stir at room temperature for 2 hours. The mixture was acidified with 20 mL of concentrated HCl and heated at reflux for 2 hours. The cooled mixture was extracted with ether (3×30 mL) and the solvent was removed under reduced pressure. The yellow liquid was purified by column chromatography using as eluent hexane-EtOAc (97:3) to give 0.72 g (16%) of the title compound as a white liquid.

reactant | NaNO2 | 25 mmol, 1.75 g | N(=O)[O-].[Na+]
reactant | 2,6-dimethyl-4-isopropylaniline hydrochloride | 25 mmol, 5 g | Cl.CC1=C(N)C(=CC(=C1)C(C)C)C
reactant | Potassium acetate | 6 g | C(C)(=O)[O-].[K+]
reactant | paraformaldehyde | 1.15 g | C=O | CH2O
reactant | hydroxylamine hydrochloride | 37.84 mmol, 2.63 g | Cl.NO
reactant | potassium acetate | 5.1 g | C(C)(=O)[O-].[K+]
reactant | potassium acetate | 16.5 g | C(C)(=O)[O-].[K+]
reactant | sodium sulfite | 0.1 g | S(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 4 mL | O | H2O
solvent | HCl | 4.5 mL | Cl | ClH
solvent | water | 17 mL | O | H2O
solvent | water | 18 mL | O | H2O
catalyst | copper sulfate | 0.625 g | S(=O)(=O)([O-])[O-].[Cu+2]
solvent | HCl | 20 mL | Cl | ClH
product | 2,6-Dimethyl-4-isopropylbenzaldehyde | 0.72 g, 16% | CC1=C(C=O)C(=CC(=C1)C(C)C)C | C12H16O
